US08466282B2
Methyl 2-methoxy-5-(4-methoxybutyl)-1-phenyl-1H-imidazole-4-carboxylate
Methyl 5-(4-methoxybutyl)-2-oxo-1-phenyl-2,3-dihydro-1H-imidazole-4-carboxylate (2.00 g) was dissolved in dichloromethane (14 ml), trimethyloxonium tetrafluoroborate (2.00 g) was added and the mixture was stirred at room temperature for 16 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (585 mg).

reactant | Methyl 5-(4-methoxybutyl)-2-oxo-1-phenyl-2,3-dihydro-1H-imidazole-4-carboxylate | 2.00 g | COCCCCC1=C(NC(N1C1=CC=CC=C1)=O)C(=O)OC | C16H20N2O4
reactant | trimethyloxonium tetrafluoroborate | 2.00 g | F[B-](F)(F)F.C[O+](C)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | Methyl 2-methoxy-5-(4-methoxybutyl)-1-phenyl-1H-imidazole-4-carboxylate | 585 mg | COC=1N(C(=C(N1)C(=O)OC)CCCCOC)C1=CC=CC=C1 | C17H22N2O4
